US06166064
4-Chloro-2,6-diisopropyaniline
To a stirred solution of 2,6-diisopropylaniline (47 grams) in N,N-dimethylformamide (886 mL) was added N-chlorosuccinimide (37.3 grams) and the mixture was stirred overnight. The resulting dark red solution was poured into water (12 L) and extracted with diethyl ether. The combined ether extracts were washed with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting dark red oil was purified by filtration through silica gel, eluting with 6:1 hexane/methylene chloride to afford 32 grams of the title compound. 1H NMR δ 7.02 (s, 2), 3.71 (br s, 2), 2.91 (qq, 2, J=6.9 Hz), 1.27 (d, 6, J=6.9 Hz), 1.27 (d, 6, J=6.9 Hz).

reactant | 2,6-diisopropylaniline | 47 grams | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | N-chlorosuccinimide | 37.3 grams | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 12 L | O | H2O
solvent | N,N-dimethylformamide | 886 mL | CN(C=O)C | C3H7NO
product | 4-Chloro-2,6-diisopropyaniline | 32 grams | ClC1=CC(=C(N)C(=C1)C(C)C)C(C)C | C12H18ClN
